US09421205B2
(c) 7-Iodoisoindolin-1-one (I59)
Methyl 2-iodo-6-methylbenzoate (I58) (2.00 g, 7.245 mmol) and NBS (1.418 g, 7.969 mmol) were stirred in chlorobenzene (50 mL) and benzoyl peroxide (75% w/w, 0.234 g, 0.724 mmol) was added. The reaction was stirred at 90° C. for 18 hours, cooled to room temperature, filtered and the precipitate was washed with cyclohexane (4×10 mL). The combined filtrates were evaporated, and the resulting brown oil was diluted with THF (50 mL). Aqueous ammonia solution (20 mL) was added, and the mixture was stirred vigorously for 17 hours. The mixture was diluted with water (20 mL) and the THF was removed in vacuo. DCM (150 mL) was added, the layers were separated and the aqueous layer was extracted with DCM (2×100 mL), the combined organics were washed with brine (100 mL), dried (MgSO4) and filtered. Silica gel was added and the volatiles were removed in vacuo to give the crude material absorbed onto silica gel. The material was purified by silica gel chromatography (Biotage Isolera, 40 g Si cartridge, 0-100% EtOAc in petroleum benzine 40-60° C., then 0-20% methanol in EtOAc) to give the title compound (I59) (0.757 g, 40% yield) as a beige solid; 1H NMR (400 MHz, CDCl3) δ 7.93 (dd, J=7.8, 0.7 Hz, 1H), 7.46 (dd, J=7.5, 0.8 Hz, 1H), 7.26-7.21 (m, 1H), 7.10 (brs, 1H), 4.37 (d, J=0.6 Hz, 2H). LCMS Method C: rt 5.06 min; m/z 260.0 [M+H]+.

reactant | Methyl 2-iodo-6-methylbenzoate | 7.245 mmol, 2.00 g | IC1=C(C(=O)OC)C(=CC=C1)C | C9H9IO2
reactant | NBS | 7.969 mmol, 1.418 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.724 mmol, 0.234 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chlorobenzene | 50 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 7-Iodoisoindolin-1-one | 40% yield | IC=1C=CC=C2CNC(C12)=O | C8H6INO
